US04837341
A solution of 43.15 g of m-chloroperbenzoic acid in 25.2 g of 4,4-dimethyl-3,4-dihydro-2-pyrone at 0° C. was stirred for 3 hours while allowing the temperature to rise to room temperature and was then vacuum filtered. The product was empasted with methylene chloride and the filtrate was washed with an aqueous sodium thiosulfate, then with water. The organic phase was dried and evaporated to dryness under reduced pressure to obtain 28.5 g of raw product which was chromatographed over silica gel and eluted with an hexane-isopropyl ether to obtain 23.08 g of racemic 5,6-epoxy-4,4-dimethyl-tetrahydro-pyr-2-one melting towards 22° C.

reactant | m-chloroperbenzoic acid | 43.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,4-dimethyl-3,4-dihydro-2-pyrone | 25.2 g | CC1(CC(OC=C1)=O)C | C7H10O2
product | racemic 5,6-epoxy-4,4-dimethyl-tetrahydro-pyr-2-one | 23.08 g | O1C2C(CC(OC21)=O)(C)C | C7H10O3
